* File: /home/VLSI_1131/tsx1136010/hw02/spice/post_sim/hw2/Bonus_pex/hw2_bonus.pex.netlist.pex
* Created: Mon Nov 18 09:07:10 2024
* Program "Calibre xRC"
* Version "v2020.2_14.12"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_BONUS%B 5 10 15 18 25
c0 25 0 0.00416527f
c1 21 0 0.0591466f
c2 20 0 0.159936f
c3 15 0 0.516945f
c4 12 0 0.0217165f
c5 11 0 0.313636f
c6 10 0 0.246425f
c7 5 0 0.0874302f
r8 21 25 8
r9 20 23 9.80968
r10 20 22 9.69429
r11 20 21 13.2552
r12 15 18 180
r13 13 18 23.25
r14 11 13 5.02856
r15 11 12 129
r16 10 23 105
r17 8 12 5.02856
r18 8 10 40
r19 5 22 28.25
.ends

.subckt PM_BONUS%2 4 9 16 20
c0 33 0 0.422323f
c1 24 0 0.0529403f
c2 23 0 0.137184f
c3 20 0 0.0947029f
c4 16 0 0.381486f
c5 12 0 0.47783f
r6 29 33 0.43147
r7 28 29 8
r8 24 33 8
r9 23 26 9.43343
r10 23 25 9.28343
r11 23 24 13.2552
r12 20 26 23.25
r13 16 25 126.75
r14 12 28 0.440222
r15 11 12 16.3327
r16 9 11 4.8566
r17 6 28 8.16635
r18 4 6 2.145
.ends

.subckt PM_BONUS%3 6 11 16 21
c0 40 0 0.490965f
c1 32 0 0.473267f
c2 24 0 0.541784f
c3 19 0 0.0910489f
c4 14 0 0.0636549f
r5 39 40 8
r6 36 40 0.3601
r7 28 32 0.55497
r8 24 32 8
r9 23 24 16.3327
r10 21 23 4.83962
r11 19 36 8
r12 18 19 16.3327
r13 16 18 4.83962
r14 14 28 8
r15 13 14 16.3327
r16 11 13 4.82264
r17 9 39 0.104222
r18 9 24 0.455778
r19 8 9 8.16635
r20 6 8 2.1375
.ends

.subckt PM_BONUS%C 5 10 17 21 36
c0 36 0 0.710474f
c1 29 0 0.241686f
c2 25 0 0.0601653f
c3 24 0 0.16444f
c4 21 0 0.139058f
c5 17 0 0.250754f
c6 13 0 0.402069f
c7 12 0 0.0163325f
r8 34 36 0.26065
r9 33 34 8
r10 30 34 0.19487
r11 29 30 8
r12 25 36 8
r13 24 27 9.80968
r14 24 26 9.69429
r15 24 25 13.2552
r16 21 27 45.5
r17 17 26 87.75
r18 13 33 0.318889
r19 12 13 16.3327
r20 10 12 4.83962
r21 8 29 0.241111
r22 7 8 16.3327
r23 5 7 4.82264
.ends

.subckt PM_BONUS%5 4 5 9
c0 20 0 1.10317f
c1 12 0 0.0703743f
c2 8 0 0.332129f
c3 4 0 0.0200534f
r4 16 20 0.99307
r5 15 16 8
r6 12 20 8
r7 11 12 16.3327
r8 9 11 4.83962
r9 8 15 0.194444
r10 7 8 16.3327
r11 5 7 4.8566
r12 4 7 4.82264
.ends

.subckt PM_BONUS%6 4 5 9
c0 20 0 0.900926f
c1 12 0 0.215269f
c2 8 0 0.207284f
r3 19 20 8
r4 16 20 0.99307
r5 15 16 8
r6 12 19 0.25
r7 11 12 16.3327
r8 9 11 4.83962
r9 8 15 0.141556
r10 7 8 16.3327
r11 5 7 4.8566
r12 4 7 4.82264
.ends

.subckt PM_BONUS%VDD 3 4 9 14 54
c0 62 0 0.0181968f
c1 56 0 0.0785509f
c2 54 0 0.0509323f
c3 48 0 0.0133041f
c4 17 0 0.305129f
c5 12 0 0.301984f
c6 9 0 0.00254445f
c7 7 0 0.222387f
r8 48 65 0.0598889
r9 47 48 16.3327
r10 45 72 0.00770322
r11 45 62 0.0296412
r12 45 65 0.0296412
r13 44 47 9.84906
r14 44 45 16.3327
r15 42 62 0.115889
r16 42 63 0.153222
r17 41 44 16.9811
r18 41 42 5.44423
r19 39 70 0.00770322
r20 39 56 0.0296412
r21 39 63 0.0296412
r22 38 41 20.5472
r23 38 39 16.3327
r24 36 56 0.137667
r25 35 38 18.8491
r26 35 36 8.16635
r27 31 36 0.182
r28 31 54 8
r29 30 31 5.44423
r30 28 31 0.234733
r31 27 30 25.6245
r32 27 28 5.44423
r33 25 28 0.231778
r34 25 57 0.120711
r35 24 27 25.3019
r36 24 25 5.44423
r37 21 68 0.0195555
r38 21 57 0.0195555
r39 20 24 16.9811
r40 20 21 16.3327
r41 17 72 0.338333
r42 16 17 8.16635
r43 14 16 2.2875
r44 12 70 0.338333
r45 11 12 8.16635
r46 9 11 2.2875
r47 7 68 0.338333
r48 6 7 8.16635
r49 4 6 2.28
r50 3 35 9.33962
r51 3 30 10.5283
.ends

.subckt PM_BONUS%GND 3 69 74 79 88
c0 108 0 0.0220351f
c1 105 0 0.0162289f
c2 99 0 0.0616695f
c3 88 0 0.0257488f
c4 82 0 0.122774f
c5 77 0 0.142597f
c6 74 0 0.0106086f
c7 72 0 0.153877f
c8 57 0 0.0295716f
r9 82 96 0.179667
r10 81 82 16.3327
r11 79 81 5.17925
r12 77 93 0.179667
r13 76 77 16.3327
r14 74 76 5.17925
r15 72 90 0.179667
r16 71 72 16.3327
r17 69 71 5.16226
r18 64 112 0.0202611
r19 64 108 0.0189104
r20 57 112 0.0641667
r21 47 108 0.0521111
r22 44 47 0.155556
r23 44 109 0.147
r24 43 44 5.44423
r25 37 96 0.00770322
r26 37 105 0.0296412
r27 37 109 0.0296412
r28 34 105 0.193667
r29 34 106 0.0754444
r30 33 34 8.16635
r31 31 93 0.00770322
r32 31 99 0.0296412
r33 31 106 0.0296412
r34 30 33 12.0566
r35 30 31 16.3327
r36 28 99 0.137667
r37 27 30 18.8491
r38 27 28 8.16635
r39 21 28 0.182
r40 21 88 8
r41 18 21 0.234733
r42 17 18 5.44423
r43 15 18 0.231778
r44 15 100 0.120711
r45 14 17 25.3019
r46 14 15 5.44423
r47 12 90 0.0195555
r48 12 100 0.0195555
r49 3 52 2.51428
r50 3 4 2.51428
r51 3 64 16.3327
r52 3 57 8.16635
r53 3 52 0.0339623
r54 3 4 4.66981
r55 3 43 16.9811
r56 3 47 16.3327
r57 3 43 19.8679
r58 3 33 24.9623
r59 3 37 16.3327
r60 3 27 19.8679
r61 3 17 25.6245
r62 3 21 5.44423
r63 3 14 21.4642
r64 3 12 16.3327
.ends

.subckt PM_BONUS%A 5 9 13 23
c0 23 0 0.0824475f
c1 17 0 0.0694005f
c2 13 0 0.31132f
c3 9 0 0.112491f
c4 7 0 0.168663f
c5 5 0 0.249766f
r6 17 23 8
r7 16 18 3.74471
r8 16 17 13.2552
r9 11 18 6.6615
r10 11 13 111.25
r11 7 18 6.90773
r12 7 9 40
r13 3 16 9.50998
r14 3 5 89.25
.ends

.subckt PM_BONUS%S 3 4 9
c0 9 0 0.0780042f
c1 7 0 0.0992195f
r2 7 9 8
r3 6 7 16.3327
r4 4 6 4.83962
r5 3 6 4.83962
.ends

.subckt PM_BONUS%11 6 11 18
c0 24 0 0.140397f
c1 22 0 0.0354048f
c2 18 0 0.1709f
c3 14 0 0.181173f
c4 9 0 0.286281f
c5 5 0 0.0488073f
r6 21 24 9.13343
r7 21 22 13.2552
r8 18 24 55.75
r9 13 14 16.3327
r10 11 13 4.83962
r11 8 9 8.16635
r12 6 8 2.1375
r13 4 22 0.049
r14 4 5 0.00770322
r15 3 9 0.193667
r16 3 5 0.0296412
r17 2 14 0.192111
r18 2 5 0.0296412
.ends

